US08980911B2
To a solution of N-{3-[2,6-dichloro-4-(hydroxymethyl)benzoyl]-1H-pyrrolo[2,3-c]pyridin-7-yl}cyclopropanecarboxamide (900 mg, 2.23 mmol) in dichloromethane and carbon tetrachloride (2:1) at 0° C., phosphorus tribromide (1200 mg, 0.42 mL, 4.455 mmol) was added drop wise over a period of few minutes, stirred the mixture at 0° C. to room temperature. On completion, the reaction was quenched by adding saturated solution of sodium bicarbonate and extracted with dichloromethane. Organic layer was separated, washed with brine, dried over sodium sulfate and concentrated under vacuum. Purification by silica gel (100-200) column chromatography using dichloromethane and methanol gradient as eluent afforded N-{3-[4-(bromomethyl)-2,6-dichlorobenzoyl]-1H-pyrrolo[2,3-c]pyridin-7-yl}cyclopropanecarboxamide (330 mg, 33%).

reactant | N-{3-[2,6-dichloro-4-(hydroxymethyl)benzoyl]-1H-pyrrolo[2,3-c]pyridin-7-yl}cyclopropanecarboxamide | 2.23 mmol, 900 mg | ClC1=C(C(=O)C2=CNC3=C(N=CC=C32)NC(=O)C3CC3)C(=CC(=C1)CO)Cl | C19H15Cl2N3O3
reactant | phosphorus tribromide | 4.455 mmol, 0.42 mL, 1200 mg | P(Br)(Br)Br | Br3P
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-{3-[4-(bromomethyl)-2,6-dichlorobenzoyl]-1H-pyrrolo[2,3-c]pyridin-7-yl}cyclopropanecarboxamide | 330 mg, 33% | BrCC1=CC(=C(C(=O)C2=CNC3=C(N=CC=C32)NC(=O)C3CC3)C(=C1)Cl)Cl | C19H14BrCl2N3O2
